US07799933B2
A 27% solution of ammonium chloride in water (35.00 mL) was mixed with 1,2-dimethoxyethane (21.00 mL) and the mixture cooled to 15° C. 1-(5-Chloro-2-methoxy-benzenesulfonyl)-7-nitro-1,2,3,4-tetrahydro-quinoline (1.00 g, 26.10 mmol) was added under vigorous stirring, followed by zinc powder (2.22 g, 33.96 mmol). The mixture was warmed to room temperature and stirred for 1 hour. After filtering off the solids, the organic solvent was evaporated and the residual slurry extracted several times with ethyl acetate. The combined organic phases were dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography (dichloromethane/methanol gradient) to yield 1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylamine as a brown solid, 0.32 g (35%), MS (ISP): m/e=353.2 (M+H).

reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 1,2-dimethoxyethane | 21.00 mL | COCCOC | C4H10O2
reactant | 1-(5-Chloro-2-methoxy-benzenesulfonyl)-7-nitro-1,2,3,4-tetrahydro-quinoline | 26.10 mmol, 1.00 g | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCCC2=CC=C(C=C12)[N+](=O)[O-])OC | C16H15ClN2O5S
solvent | water | 35.00 mL | O | H2O
catalyst | zinc | 33.96 mmol, 2.22 g | [Zn] | Zn
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-7-ylamine | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCCC2=CC=C(C=C12)N)OC | C16H17ClN2O3S
